
* THS4302
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: THS4302
* Date: 08JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SLOS403H – OCTOBER 2002 – REVISED AUGUST 2006
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* This model works fairly well in simulating:
*
* Bandwidth
* Slew Rate (3300 v/uS - slightly low, but can be trimmed below)
* VOH
* VOL
* IC
* Rin
* Ro
* Output current (higher than data sheet)
*
* Model Assumes a 50 ohm source, 50 ohm termination
*
* connections:   non-inverting input
*                |   inverting input
*                |   |   positive power supply
*                |   |   |   negative power supply
*                |   |   |   |   output
*                |   |   |   |   |   Powerdown
*                |   |   |   |   |   |
*****************************************************************************
.subckt THS4302  IN+ IN- VS+ VS- OUT PD
.MODEL S_TRUE VSWITCH Roff=1e9 Ron=1e-3 Voff=0.9 Von=1.5
.MODEL S_Output VSWITCH Roff=50e3 Ron=2 Voff=0.2 Von=0.8
.MODEL S_FALSE  VSWITCH Roff=1e9 Ron=1e-3 Voff=1 Von=0.8
.model dx D(Is=800.00E-18)
.model qx1 NPN(Is=800.00E-18 Bf=1.1786E3)
.model qx2 NPN(Is=864.3162E-18 Bf=1.1786E3)
* input stage
  rc1  VS+ 11 44.210
  rc2  VS+ 12 44.210
*  c1   11 12 92e-15
  q1   11 2 13 qx1
  q2   12  INP 14 qx2
  L+   IN+  INP .5nH
  re1  13 10 41
  re2  14 10 41
  Cdif  INP  2  0.1p
  Cni   IN+ 99  .5p
  Cinv  2 99  0.05p

* Vic range limits
  d10  15  10  dx
  v15  15  VS- dc 1.0
*  d16  10  16  dx
*  v16  VS+ 16  dc 2.8

* Biasing
  Vbias1  90  VS- 2V
  Sbias   90  91  PD VS- S_TRUE
  Rbias1  91  92  1600
  Rbias2  92  VS-  400
  Cbias   92  VS-  7.5n
  Ebias   94  VS-  92 VS- 2.5
  Rbias3  94  93   1k
  Vbias2  93  VS-  0

  fee  10  VS- Vbias2 16.5
  fcc  VS+  VS-  Vbias2 17.068
  Iccpd  VS+  VS-  0.8m
  egnd  99  0  poly(2)  VS+  0  VS-  0  0 .5  .5

* gain stage and dominant pole
  ga   21 99 11 12 -10.4
  ra   21 99 100
  ca   21 99 2E-10


* GAIN STAGE SWING LIMIT
  DPC  21 23 dx
  EPC  23 99 Poly(2)   VS+  99   VS-  99 -1.7  .5  -.5
  DNC  24 21 dx
  ENC  24 99 Poly(2)   VS+  99   VS-  99 1.7  -.5  .5

* phase shift stage
  gps   25 99 21 99 -100.0E-6
  rps   25 99 10.0E3
  cps   25 99 2E-15

* Output stage
  X_OP  25 99  VS+  VS- OUTa 94 THS430X_OP
  Lo    OUTa OUT .12nH
  Copd  OUTa 99  4.5p

* Internal feedback
  Rf    OUTa  2  200.0
  Rg    2   INM  49.7
  L-    INM IN-  .5n
.ends THS4302
*$

* Output stage
* connections:      non-inverting input
*                   | inverting input
*                   | | positive power supply
*                   | | | negative power supply
*                   | | | | output
*                   | | | | | Powerdown
*                   | | | | | |
.subckt THS430X_OP  1 2 3 4 5 6
.MODEL S_TRUE VSWITCH Roff=1e9 Ron=1e-3 Voff=0.9 Von=1.5
.MODEL S_Output VSWITCH Roff=50e3 Ron=2 Voff=0.2 Von=0.8
.MODEL S_FALSE  VSWITCH Roff=1e9 Ron=1e-3 Voff=1 Von=0.8
.model dx D(Is=800.00E-18)
.model qx1 NPN(Is=800.00E-18 Bf=1.1786E3)
.model qx2 NPN(Is=864.3162E-18 Bf=1.1786E3)

* GAIN STAGE SWING LIMIT
*  DOPC   1 38  dx
*  VOPC   3 38  1.
*  DONC  48  1  dx
*  VONC  48  4  1.

*  Ib1   3  51  200u
*  Db1  51   4   Dx

* UPPER DRIVE STAGE
*  ROP   3  34  .2
*  ROP   3  32  8
  Srop  3  32   6  4 S_Output
*  HLP2 34  33  VLP 30
*  VOP  33  32  0
*  HLP1 35   0  VOP  8
*  RLP  35  36  8
*  DLP  36  37  dx
*  VLP  37   0  0
  EOP  32  31  Poly(2)   2  1  3  4  -.75  1  .5
  DOP  31   7  dx

* LOWER DRIVE STAGE
  DON   7  41  dx
  EON  41  42  Poly(2)   1  2  3  4  -.75  1  .5
*  VON  42  43  0
*  HLN1 45   0  VON  15
*  RLN  45  46  8
*  DLN  46  47  dx
*  VLN  47   0  0
*  HLN2 43  44  VLN 45
*  RON  44   4  .1
*  RON  42   4  10
  Sron 42  4  6  4  S_Output

  Rout  7  5  -.01
.ends
*$